US07989438B2
Step 2: methyl 14′-cyclohexyl-2,2-dimethylspiro[1,3-dioxane-5,7′-indolo[1,2-e][1,5]benzoxazocine]-11′-carboxylate
NaH (5 eq, 60% dispersion in mineral oil) was added to a degassed solution of methyl 3-cyclohexyl-2-(2-hydroxyphenyl)-1H-indole-6-carboxylate (prepared as described in published International patent application WO2006/046030) in DMF (0.2 M) and the solution was allowed to stir for 20 min at RT. The mixture was then placed in an oil bath preheated at 70° C., a degassed solution of 5,5-bis(bromomethyl)-2,2-dimethyl-1,3-dioxane (1.5 eq) in dry DMF (0.4M) was added and the mixture was stirred for 1 h; additional electrophile (1.5 eq) was added and stirring was continued for 3 h at 70° C. The reaction was quenched with sat. aq. NH4Cl, acidified with 1N HCl and extracted with Et2O; the organic layer was washed with H2O and brine, dried over Na2SO4 and the solvent was removed in vacuo. The crude was purified by FC (PE/EtOAc) to afford the title compound (50%) and recovered starting material (44%). (ES+) m/z 490 (M+H)+.

reactant | NaH | 5 eq | [H-].[Na+]
reactant | methyl 3-cyclohexyl-2-(2-hydroxyphenyl)-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)O | C22H23NO3
reactant | 5,5-bis(bromomethyl)-2,2-dimethyl-1,3-dioxane | 1.5 eq | BrCC1(COC(OC1)(C)C)CBr | C8H14Br2O2
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
solvent | DMF | 0.4M | CN(C)C=O | C3H7NO
product | methyl 14′-cyclohexyl-2,2-dimethylspiro[1,3-dioxane-5,7′-indolo[1,2-e][1,5]benzoxazocine]-11′-carboxylate | 50% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC3(COC4=C(C21)C=CC=C4)COC(OC3)(C)C)C(=O)OC | C30H35NO5
